US06630600B1
Triethylamine (0.64 g; 6.28 mmole) was slowly added to a solution of 2-ethoxy-3-{4-[2-(4-hydroxyphenyl)ethoxy]phenyl}propanoic acid ethyl ester (1.5 g; 4.18 mmole) in dry dichloromethane (20 ml). After cooling to 0° C. isopropylsulfonyl chloride (0.9 g; 6.28 mmole) was added slowly. The reaction mixture was stirred over night at room temperature, water was added and the mixture was extracted with dichloromethane. The organic phase was washed with hydrochloric acid (1M) and sodium bicarbonate solution, dried (magnesium sulfate) and evaporated in vacuo to give 1.75 g (yield 90%) of 2-ethoxy-3-(4-{2-[4-(2-propanesulfonyloxy)phenyl]ethoxy}phenyl)propanoic acid ethyl ester.

reactant | Triethylamine | 6.28 mmole, 0.64 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethoxy-3-{4-[2-(4-hydroxyphenyl)ethoxy]phenyl}propanoic acid ethyl ester | 4.18 mmole, 1.5 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)O)OCC)=O | C21H26O5
reactant | isopropylsulfonyl chloride | 6.28 mmole, 0.9 g | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-ethoxy-3-(4-{2-[4-(2-propanesulfonyloxy)phenyl]ethoxy}phenyl)propanoic acid ethyl ester | 1.75 g, yield 90% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)OS(=O)(=O)C(C)C)OCC)=O | C24H32O7S
